US09375004B2
5-Chloro-3-(difluoromethyl)-1-methyl-N-[2-(4-methylpentan-2-yl)phenyl]-1H-pyrazole-4-carboxamide (Example 14)
0.458 g (2.00 mmol) of 5-chloro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbonyl chloride is added to a mixture of 0.322 g (1.81 mmol) of 2-(4-methylpentan-2-yl)aniline and 0.377 g (2.72 mmol) of potassium carbonate in 30 mL of acetonitrile, and the mixture is stirred at 20° C. overnight. After the reaction has ended, the mixture is extracted with water/ethyl acetate. The organic phase is dried with sodium sulfate and concentrated under reduced pressure. The crude product is purified by column chromatography (mobile phase: cyclohexane/ethyl acetate gradient). This gives 0.580 g (78% of theory) of 5-chloro-3-(difluoromethyl)-1-methyl-N-[2-(4-methylpentan-2-yl)phenyl]-1H-pyrazole-4-carboxamide having a content of 94% according to LC-MS and a logP (acidic) of 4.01.

reactant | 5-chloro-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carbonyl chloride | 2.00 mmol, 0.458 g | ClC1=C(C(=NN1C)C(F)F)C(=O)Cl | C6H4Cl2F2N2O
reactant | 2-(4-methylpentan-2-yl)aniline | 1.81 mmol, 0.322 g | CC(CC(C)C1=C(N)C=CC=C1)C | C12H19N
reactant | potassium carbonate | 2.72 mmol, 0.377 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 5-Chloro-3-(difluoromethyl)-1-methyl-N-[2-(4-methylpentan-2-yl)phenyl]-1H-pyrazole-4-carboxamide | ClC1=C(C(=NN1C)C(F)F)C(=O)NC1=C(C=CC=C1)C(C)CC(C)C | C18H22ClF2N3O
